US09376422B2
3-(Aminomethyl)-5-fluoro-4-isopropyl-6-methylpyridin-2(1H)-one
5-Fluoro-4-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (100 mg, 0.515 mmol) in 100 mL flask was dissolved in a mixture of MeOH (6 mL) and 2 mL NH3aq (2 mL, 25%). Reduction was conducted using H-Cube with Raney-Ni as a catalyst at room temperature for 3-4 h. On completion of reaction (monitored by TLC), reaction was concentrated under reduced pressure to afford titled compound as a grey solid (90 mg, 90%). 1H NMR (400 MHz, CD3OD) δ ppm 4.04 (s, 2H), 3.22 (m, 1H), 2.24 (d, J=3.4 Hz, 3H), 1.32 (dd, J=7.0, 1.8 Hz, 6H); LCMS E-S (M+H)=199.2.

reactant | 5-Fluoro-4-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 0.515 mmol, 100 mg | FC=1C(=C(C(NC1C)=O)C#N)C(C)C | C10H11FN2O
solvent | MeOH | 6 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 3-(Aminomethyl)-5-fluoro-4-isopropyl-6-methylpyridin-2(1H)-one | 90 mg, 90% | NCC=1C(NC(=C(C1C(C)C)F)C)=O | C10H15FN2O
